US06436982B1
2-Trifluoromethyl-4-bromo-5-aminobenzimidazole.
To a solution of 3.2 g (16 mmol) of 2-trifluoromethyl-5-aminobenzimidazole in 50 ml of AcOH was added 0.34 ml (6.6 mmol) of Br2 dropwise and resulting reaction mixture was stirred for 1 h at 25° C. The reaction mixture was concentrated in vacuo and purified on silica gel column chromatography (10% MeOH/CHCl3) to yield 1.7 g (6.2 mmol, 94%) of the desired product.

reactant | 2-trifluoromethyl-5-aminobenzimidazole | 16 mmol, 3.2 g | FC(C=1NC2=C(N1)C=CC(=C2)N)(F)F | C8H6F3N3
reactant | Br2 | 6.6 mmol, 0.34 ml | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 2-Trifluoromethyl-4-bromo-5-aminobenzimidazole | 6.2 mmol, 1.7 g, 94% | FC(C=1NC2=C(N1)C=CC(=C2Br)N)(F)F | C8H5BrF3N3
